data/specific_train_final.csv
"CCCC[CH:10]CC.[O:20][O]>>CCCC[CH:10](CC)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(C2CCC(C1C2)(CO)O[O:20])C.[N+](=O)([O-])[O:10]>>CC1(C2CCC(C1C2)(CO)O[O:20][O:10][N+](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C)OC(=O)C[O:21][O:20][O].[N+](=O)[O]>>CC(C)(C)OC(=O)C[O:21].[N+](=O)[O].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C1CCC(CC1)O[O:20].[N:10]=O>>C1CCC(CC1)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][CH:22]C1(C(O1)C=CC(=O)CC)C.[O:10][O]>>[H:20][O:10][O].CCC(=O)C=CC1C(O1)(C)[CH:22]=[O:21] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"C[C:10]([CH:20](O)COO)([O:11])CO>>C[C:10](CO)=[O:11].OOC[CH:20]O 11-11,10;10,20-10,11;10,20-20",Room Temperature,Propagation,retroaddition
"[H:20][O:21][O].CC(C)CCC(C)O[O:10]>>[H:20][O:10]OC(C)CCC(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCCO[O:20].[N+](=O)([O-])[O:10]>>CCCCCO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH2:21]C(C)(C)C(=O)C.[OH:10]>>[H:20][OH:10].CC(=O)C(C)(C)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1(C2CC[C:10](C1C2)CO[N+](=O)[O-])C.[O:20][O]>>CC1(C2CC[C:10](C1C2)(CO[N+](=O)[O-])[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH:5]1=[CH:4][CH:3]=[C:2]([CH:7]=[CH:6]1)[OH:1].[OH:8]>>[CH:5]1=[CH:4][CH:3]([C:2]([CH:7]=[CH:6]1)[OH:1])[OH:8] 8-8,3; 2,3-8,3; 2,3-2",Room Temperature,Propagation,addition
"CC(C(C)(C)C)[O:20][O:21][O]>>CC(C(C)(C)C)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:1][O:20].[CH3:3][C:4]1=[CH:5][CH2:6][CH:7](/[C:11]([CH3:12])=[C:10]([H])\[H])[CH2:8][CH2:9]1.[O:13][O:14]>>[H:1][O:20][C:10]([H])([H])[C:11]([CH:7]2[CH2:8][CH2:9][C:4]([CH3:3])=[CH:5][CH2:6]2)[CH3:12].[O:13][O:14] 10,11-11;10,11-10,20;20-10,20",Room Temperature,Propagation,addition
"CC1(C2CC1C(C(C2)O[N+]([O-])=O)(C)[O:20][O:21]N=O)C>>CC1(C2CC1C(C(C2)O[N+]([O-])=O)(C)[O:20])C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:1][O:2][O:3][CH:4]([CH2:8][OH:9])[C:5](=[CH2:7])[CH3:6].[OH:12].[O:10][O:11]>>[H:1][O:2][O:3][CH:4]([CH2:8][OH:9])[C:5]([CH3:6])[CH2:7][O:10][O:11].[OH:12] 10-10,7; 5,7-10,7; 5,7-5",Room Temperature,Propagation,addition
"[H:20][CH:21](CC)CCCCC.[Cl:10]>>[H:20][Cl:10].CCCCC[CH:21]CC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(CCOO[O:20][N+:21](=O)[O-])O>>CCC(CCOO[O:20])O.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C([O:20][O:21]N=O)Cl)Cl>>CC(C([O:20])Cl)Cl.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:6][C:3]([CH2:4][OH:5])([C:2]1([CH2:8][O:9]1)[CH3:1])[OH:7].[H:10][O:11]>>[H:10][O:11][H:6].[CH3:1][C:2]1([CH2:8][O:9]1)[C:3]([CH2:4][OH:5])[OH:7] 11-11,6; 6,3-3; 6,3-11,6",Room Temperature,Propagation,abstraction
"C[C:10]1CCC2C(CC2(C)C)C(=C)CCC1O[N+](=O)[O-].[O:20][O]>>CC1(CC2C1CC[C:10](C(CCC2=C)O[N+](=O)[O-])(C)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=CCO)O[O:20].[N+:10](=O)[O-]>>CC(=CCO)O[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:9][CH2:8][CH:7]([CH:10]([CH3:11])[OH:12])[O:6][O:5][O:4][N+:2](=[O:1])[O-:3]>>[CH3:9][CH2:8][CH:7]([CH:10]([CH3:11])[OH:12])[O:6][O:5][O:4].[N+:2](=[O:1])[O-:3] 4,2-2; 4,2-4",Room Temperature,Initiation,homolyze
"C[CH:10]CCC(C)C.[O:20][O]>>CC(C)CC[CH:10](C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(CO)(C(C=O)O[O:20])O.[N:10]=O.[O][O]>>CC(CO)(C(C=O)O[O:20][N:10]=O)O.[O][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCCCCCCCC(CC)O[O:10]>>[H:20][O:10]OC(CC)CCCCCCCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:4][C:5]([CH2:9][O:10])([CH:6]=[CH:7][OH:8])[O:11][OH:12].[N+:2](=[O:3])[O-:1]>>[CH3:4][C:5]([CH2:9][O:10][N+:2](=[O:3])[O-:1])([CH:6]=[CH:7][OH:8])[O:11][OH:12] 2-10,2; 10-2,10",Room Temperature,Termination,recombine
"CC(OC(C)(C)C)[O:20][O:21]N=O>>CC([O:20])OC(C)(C)C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)OC(C)(C)[O:20][O:21][O]>>CC(C)OC(C)(C)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[C:10](C(O)(Cl)Cl)(Cl)Cl.[O:20][O]>>C([C:10]([O:20][O])(Cl)Cl)(O)(Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC1=CC(=CC=C1)CO[O:10]>>[H:20][O:10]OCC1=CC=CC(=C1)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CO)(C=O)O[O:20].[N:10]=O>>CC(CO)(C=O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)/C=C\C1(C(O1)[C:10]=O)C.[O:20][O]>>CC(=O)/C=C\C1(C(O1)[C:10](=O)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
